US08193199B2
Mcpba (8.7 g, 50 mmol) was added at room temperature to 3H-imidazo[4,5-b]pyridine (5.0 g, 42 mmol) in acetic acid (84 mL, 1469 mmol). The mixture was stirred for 3 hours. The resulting precipitate was filtered and rinsed with Et2O, it gave 4-azabenzimidazole-N-oxide. To 4-azabenzimidazole-N-oxide (2.00 g, 14.8 mmol) phosphorous oxychloride (25.00 mL, 266 mmol) was added at room temperature. The solution was heated to 90° C. for 18 h. The solution was cooled and the rest POCl3 was distilled off in vacuo. The residue was dissolved in CH3CN and quenched with slow addition of ice-water. The mixture was basified to PH 9 with 50% NaOH solution. At room temperature the resulting precipitates were filtered. The collected solid was dissolved in MeOH and insoluble residue was removed by filtration. The filtrates were concentrated and the residue was purified by flash chromatography over silica gel, using 3:7 EtOAc-hexane, gave 7-chloro-3H-imidazo[4,5-b]pyridine (1.20 g, 52.8%). To the mixture of di-tert-butylpyrocarbonate (1193 mg, 5465 μmol), 7-chloro-3H-imidazo[4,5-b]pyridine (0.763 g, 4968 μmol) in acetonitrile (15 mL), 4-(dimethylamino)pyridine (61 mg, 497 μmol) was added. The mixture was stirred at room temperature overnight. Evaporation of the solvent, flash chromatography of the residue over silica gel, using 0% to 25% EtOAc/hexane, gave tert-butyl 7-chloro-3H-imidazo[4,5-b]pyridine-3-carboxylate, Mass Spectrum (ESI) m/e=253.0 (M+1).

reactant | di-tert-butylpyrocarbonate | 5465 μmol, 1193 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-chloro-3H-imidazo[4,5-b]pyridine | 4968 μmol, 0.763 g | ClC1=C2C(=NC=C1)NC=N2 | C6H4ClN3
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 497 μmol, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 7-chloro-3H-imidazo[4,5-b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1)N(C=N2)C(=O)OC(C)(C)C | C11H12ClN3O2
